US05925661
A) N-(2-Bromo-5-cyclopentyl-4-nitrophenyl)-4-methylbenzenesulphonamide
This compound is prepared according to the procedure described in step A of Preparation 2.18, from 15 g of N-(4-nitrophenyl)-4-methylbenzenesulphonamide in 100 ml of THF and 64 ml of a 2M solution of cyclopentylmagnesium chloride in ether, followed by 6.8 ml of bromine and 35 ml of triethylamine. 6.1 g of the expected product are obtained, m.p.=122° C.

reactant | N-(4-nitrophenyl)-4-methylbenzenesulphonamide | 15 g | [N+](=O)([O-])C1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C | C13H12N2O4S
reactant | cyclopentylmagnesium chloride | C1(CCCC1)[Mg]Cl
reactant | bromine | 6.8 ml | BrBr | Br2
reactant | triethylamine | 35 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | N-(2-Bromo-5-cyclopentyl-4-nitrophenyl)-4-methylbenzenesulphonamide | 6.1 g | BrC1=C(C=C(C(=C1)[N+](=O)[O-])C1CCCC1)NS(=O)(=O)C1=CC=C(C=C1)C | C18H19BrN2O4S
